US08247429B2
5-chloro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-one
To a solution of methyl 6-chloro-5-(3-methoxy-3-oxopropyl)-2-methyl-2H-indazole-4-carboxylate (295 mg, 0.948 mmol) in tetrahydrofuran (10 mL) was added 28% sodium methoxide methanol solution (390 μL), and the mixture was heated under reflux for 2 hr. The reaction solution was concentrated to dryness to give crystals. The obtained crystals were added to 10% sulfuric acid (10 mL) heated to 100° C., and the mixture was heated under reflux for 4 hr. The reaction solution was neutralized with 8M aqueous sodium hydroxide solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (174 mg, yield 83%).

reactant | methyl 6-chloro-5-(3-methoxy-3-oxopropyl)-2-methyl-2H-indazole-4-carboxylate | 0.948 mmol, 295 mg | ClC=1C(=C(C2=CN(N=C2C1)C)C(=O)OC)CCC(=O)OC | C14H15ClN2O4
reactant | sodium methoxide methanol | 390 μL | CO.C[O-].[Na+]
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 8M | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-chloro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-one | 174 mg, yield 83% | ClC=1C2=C(C3=CN(N=C3C1)C)C(CC2)=O | C11H9ClN2O
